US05047411
2-Acetamido-6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (2.20 g) was added in small portions to a solution of phosphorous oxychloride (1.79 ml) in N,N-dimethylformamide (20 ml) at ambient temperature with stirring. After being stirred for 1 hour, the mixture was diluted with water (200 ml) and stirred for an additional 30 minutes. The mixture was made alkaline with aqueous potassium carbonate and extracted with dichloromethane. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo to give dark brown amorphous powder. The crude material was chromatographed on silica gel by eluting with chloroform-methanol (50:1, V/V), followed by recrystallization from a mixture of methanol and diisopropyl]ether to give 2-dimethylaminomethyleneamino-6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (0.31 g).

reactant | 2-Acetamido-6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 2.20 g | C(C)(=O)NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)C)C2 | C19H18N4O2
reactant | phosphorous oxychloride | 1.79 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-dimethylaminomethyleneamino-6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 0.31 g | CN(C)C=NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)C)C2 | C20H21N5O
